US04207320
3-Dimethylamino-10-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
3-Dimethylamino-10-(1,1-dimethylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide; m.p. 360° C., from methanol/ether.

reactant | 3-Dimethylamino-10-(1,1-dimethylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CN(C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C(C)(C)C)C
solvent | methanol ether | CO.CCOCC
product | 3-Dimethylamino-10-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CN(C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)CC)C | InChI=1S/C23H22N3.HI/c1-4-16-5-10-22-17(13-16)6-8-20-15-25-21-11-9-19(24(2)3)14-18(21)7-12-23(25)26(20)22;/h5-15H,4H2,1-3H3;1H/q+1;/p-1
